US08138178B2
To a solution of (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one (5 g, 12 mmol) and CuCl (2.75 g, 27.8 mmol) in dry DMF (50 mL) was added H2O (20 mL) and PdCl2 (950 mg, 3.2 mmol) at room temperature. The mixture was vigorously stirred under a balloon of oxygen for 24 h. After TLC showed the starting material had disappeared, the solid was filtered off. Water (200 mL) and EtOAc (50 mL) was added, the layers were separated and the aqueous layer was extracted with EtOAc (3×40 mL). The combined organic layer was washed with brine, dried over Na2SO4, filtered and concentrated to give (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-(2-oxopropyl)-1,3-oxazinan-2-one (5.25 g, 92%), which was purified by column chromatography. 1H NMR (CDCl3): 1.47 (s, 3H), 2.06 (s, 3H), 2.10-2.36 (m, 3H), 2.58 (m, 1H), 2.90 (m, 2H), 5.58 (m, 1H), 6.69 (m, 1H), 6.79 (m, 1H), 7.02 (m, 2H), 7.19-7.33 (m, 4H).

reactant | (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one | 12 mmol, 5 g | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)Br)C1=CC=C(C=C1)F | C21H21BrFNO2
reactant | H2O | 20 mL | O | H2O
reactant | oxygen | O=O | O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | CuCl | 27.8 mmol, 2.75 g | Cl[Cu]
catalyst | PdCl2 | 3.2 mmol, 950 mg | Cl[Pd]Cl
product | (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-(2-oxopropyl)-1,3-oxazinan-2-one | 5.25 g, 92% | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@@](CC1)(CC(C)=O)C1=CC=C(C=C1)F)=O | C21H21BrFNO3
